Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],2.96534110032
[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.87465435797
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2],7.17879479705
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]1([H:13])[H:14]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([O:11])([H:13])[H:14],3.58837514676
[H:1][C:2]#[C:3][C:4][C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.557668490069999
[C:6]#[C:7][O:8][H:9].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][O:8][H:9],-6.33702073338
[H:1][C:2]#[C:3][C:8]([C:7][O:6][C:4][H:5])([H:9])[H:10]>>[H:1][C:2][C:3]1=[C:4]([H:5])[O:6][C:7][C:8]1([H:9])[H:10],-1.94914073058
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-1.37229356
[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-1.89757955977
[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.6643632414
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]1=[C:3][O:4][C:5]=[C:6]([H:7])[C:8]1([H:9])[H:10],-0.4192413418
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6](=[O:7])[H:8],3.19120814709
[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[C:4]([H:5])#[C:6][H:7].[H:1][C:2]=[O:3],-1.80416016168
[H:16].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-4.1053188918900005
[H:1][O:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3]/[C:4](=[C:5]\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],5.0414560472900005
[C:10]([H:11])[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.32904415967
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]12[C:7]([H:8])[C:9]1[C:10]2([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:10]([C:9]#[C:7][H:8])([H:11])[H:12],1.73094316375
[H:7].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-0.911956162227
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],4.9857577692
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]1[C:3]2[O:4][C@@:5]12[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.07230802431
[H:1][C:2]#[C:3][C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11]>>[C:4]12[C:5]([H:6])[C@@:7]1([H:8])[C:9]2([H:10])[H:11].[H:1][C:2]#[C:3],5.8240564098800025
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11][H:12],4.89663710813
[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.97708997918
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]#[C:10][H:11])[C:13]([H:14])([H:15])[H:16],1.98957990979
[H:15].[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.55613951821
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:5],1.80880910097
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7][H:8].[H:9],4.3681178868
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C@@:4]1([H:5])[C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-0.3655858281499999
